US04720500
The procedure is analogous to that described in Example 1 below but starting with 4-trifluoromethylbenzoic acid (2.7 g), N,N'-carbonyldiimidazole (2.3 g) and 2-amino-7-(4-methoxyphenyl)-1,8-naphthyridine (2.5 g). The product obtained by precipitation in water (3.3 g; m.p. 144°-146° C.) is dissolved in boiling acetonitrile (100 cc). After cooling for 3 hours at 4° C., the crystallized solid is separated by filtration, washed with acetonitrile (2×10 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-[7-(4-Methoxyphenyl)-1,8-naphthyridin-2-yl]-4-trifluoromethylbenzamide (2.4 g), m.p. 148° C., is obtained.

reactant | 4-trifluoromethylbenzoic acid | 2.7 g | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | 2-amino-7-(4-methoxyphenyl)-1,8-naphthyridine | 2.5 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC=C(C=C1)OC | C15H13N3O
reactant | acetonitrile | 100 cc | C(C)#N | C2H3N
solvent | water | 3.3 g | O | H2O
product | N-[7-(4-Methoxyphenyl)-1,8-naphthyridin-2-yl]-4-trifluoromethylbenzamide | 2.4 g | COC1=CC=C(C=C1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C23H16F3N3O2
